US08623889B2
Trifluoroacetic acid (40.0 uL, 0.519 mmol) was added to a solution of 4-methylpyrazole (0.901 g, 11.0 mmol) in dihydropyran (2.0 mL, 22 mmol). The reaction mixture was stirred at 90° C. for 20 hours. The mixture was cooled to room temperature, and then quenched with Sodium hydride (92 mg, 2.3 mmol). After stirring at room temperature for 10 minutes more, the solvent was removed under vacuum. The residue was suspended in dichloromethane, and passed through a short plug of silica, rinsed with dichloromethane. The filtrate was evaporated in vacuo to yield 1.5213 g (83%) of 4-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole. LCMS (ESI): M+H=167.4; 1H NMR (400 MHz, DMSO-d6) δ 7.60 (s, 1H), 7.27 (s, 1H), 5.29 (d, J=9.9 Hz, 1H), 3.89 (d, J=11.2 Hz, 1H), 3.64-3.51 (m, 1H), 2.00 (overlapping s and m, 4H), 1.88 (dd, J=27.1, 13.0 Hz, 1H), 1.64 (m, 1H), 1.51 (m, 2H).

reactant | 4-methylpyrazole | 11.0 mmol, 0.901 g | CC=1C=NNC1 | C4H6N2
reactant | dihydropyran | 22 mmol, 2.0 mL | O1CCCC=C1 | C5H8O
reactant | Sodium hydride | 2.3 mmol, 92 mg | [H-].[Na+]
catalyst | Trifluoroacetic acid | 0.519 mmol, 40.0 uL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | 1.5213 g, 83% | CC=1C=NN(C1)C1OCCCC1 | C9H14N2O
